US08389523B2
4.5 g (13 mmol) of ethyl 1-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)-2-oxo-1,2-dihydroquinoxaline-3-carboxylate was dissolved in ethanol (100 ml), and 4.1 g (26 mmol) of a 25% aqueous solution of sodium hydroxide was added thereto. The solution was stirred for 2 hours at room temperature. The reaction mixture was concentrated under reduced pressure and water was added to the residue thus obtained. The mixture was acidified using 10% hydrochloric acid. A solid precipitated therefrom was separated by filtration, washed with water, and then dried to obtain 3.9 g (yield: 94%) of 1-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)-2-oxo-1,2-dihydroquinoxaline-3-carboxylic acid as a pale yellow powder.

reactant | ethyl 1-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)-2-oxo-1,2-dihydroquinoxaline-3-carboxylate | 13 mmol, 4.5 g | O1C2=C(OCC1)C=C(C=C2)N2C(C(=NC1=CC=CC=C21)C(=O)OCC)=O | C19H16N2O5
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)-2-oxo-1,2-dihydroquinoxaline-3-carboxylic acid | 3.9 g, yield: 94% | O1C2=C(OCC1)C=C(C=C2)N2C(C(=NC1=CC=CC=C21)C(=O)O)=O | C17H12N2O5
